US06262069B1
1-Amino-7-bromomethylisoquinoline
1-Amino-7-hydroxymethylisoquinoline (0.2 g) was dissolved in dry THF (10 ml.) and phosphorous tribromide (0.03 ml.) added in one portion. A white precipitate was seen to form and the suspension was stirred for 1 hr. at room temperature. The mixture was evaporated to dryness and triturated with diethylether to give the product.

reactant | 1-Amino-7-hydroxymethylisoquinoline | 0.2 g | NC1=NC=CC2=CC=C(C=C12)CO | C10H10N2O
reactant | phosphorous tribromide | 0.03 ml | P(Br)(Br)Br | Br3P
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-Amino-7-bromomethylisoquinoline | NC1=NC=CC2=CC=C(C=C12)CBr | C10H9BrN2
